US06797823B1
N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylphenyl)-N′-(2-methoxypheny)-urea
4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylaniline (300 mg) was dissolved in chloroform (5 ml). 2-Methoxyphenyl isocyanate (0.24 ml) was then added to the solution, and the mixture was stirred at 70° C. overnight. The reaction solution was purified by chromatography on silica gel by development with chloroform/acetone (75/25) to give 365 mg (yield 89%) of the title compound. 1H-NMR (CDCl3, 400 MHz): δ 2.17 (s, 3H), 2.28 (s, 3H), 3.83 (s, 3H), 4.07 (s, 3H), 5.33 (s, 2H), 6.26 (s, 3H), 6.29 (d, J=5.4 Hz, 1H), 6.86-7.06 (m, 4H), 7.12 (s, 1H), 7.30-7.41 (m, 3H), 7.46 (s, 1H), 7.50-7.56 (m, 3H), 7.61 (s, 1H), 8.11-8.16 (m, 1H), 8.43 (d, J=5.4 Hz, 1H)

reactant | 4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylaniline | 300 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(N)C=C1C)C)OC | C25H24N2O3
reactant | 2-Methoxyphenyl isocyanate | 0.24 ml | COC1=C(C=CC=C1)N=C=O | C8H7NO2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-{[7-(Benzyloxy)-6-methoxy-4-quinolyl]oxy}-2,5-dimethylphenyl)-N′-(2-methoxypheny)-urea | 365 mg, yield 89% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1C)NC(=O)NC1=C(C=CC=C1)OC)C)OC | C33H31N3O5
